US07312359B2
6-Benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one from Preparation 1 above (4.0 g, 14 mmol), trimethylsilyl cyanide (10.0 g, 100 mmol) and Zinc Iodide (0.25 g) were combined and stirred under nitrogen for 15 hours. The reaction mixture was then diluted by addition of 200 mL of Et2O, washed with cold water, and the organic layer was dried (MgSO4) and evaporated under reduced pressure to an oil. The oil was dissolved in 250 mL of toluene, and 0.5 g of paratoluene sulfonic acid was added. The reaction mixture was refluxed for three hours, cooled, and the the solvent was removed under reduced pressure. The crude product was eluted through silica under medium pressure with 5% EtOAc in hexanes to yield 1.8 g (6.1 mmol, 44%) of (racemic) 6-benzenesulfonyl-3,4-dihydro-naphthalene-1-carbonitrile as an oil. MS: 296 (M+H)+.

reactant | 6-Benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)=O | C16H14O3S
reactant | trimethylsilyl cyanide | 100 mmol, 10.0 g | C[Si](C)(C)C#N | C4H9NSi
catalyst | Zinc Iodide | 0.25 g | [I-].[Zn+2].[I-]
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | (racemic) 6-benzenesulfonyl-3,4-dihydro-naphthalene-1-carbonitrile | 6.1 mmol, 1.8 g, 44% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCC=C(C2=CC1)C#N | C17H13NO2S
